US05043142
To a solution of 1.22 g (5.97 mmol) of diethyl 3-hydroxyglutarate in dry dimethylformamide (30 ml) were added 1.95 g (7.09 mmol) of tert-butyldiphenylsilyl chloride and 1.41 g (20.7 mmol) of imidazole in an atmosphere of argon, and the mixture was allowed to react at room temperature for 10 hours. To the solution was added water followed by extraction with benzene. The organic layer was washed with water and concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. From the eluate with dichloromethane-hexane (1:1) was afforded 2.54 g (5.75 mmol) of diethyl 3-(tert-butyldiphenylsiloxy)glutarate.

reactant | diethyl 3-hydroxyglutarate | 5.97 mmol, 1.22 g | OC(CC(=O)OCC)CC(=O)OCC | C9H16O5
reactant | tert-butyldiphenylsilyl chloride | 7.09 mmol, 1.95 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 20.7 mmol, 1.41 g | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane hexane | ClCCl.CCCCCC
product | diethyl 3-(tert-butyldiphenylsiloxy)glutarate | 5.75 mmol, 2.54 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(CC(=O)OCC)CC(=O)OCC | C25H34O5Si
